US20010056105A1
N-Butyl-6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)Nicotinamide
In a manner similar to that of Example 10, 300 mg (0.72 mmol) of 6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)nicotinic acid are reacted with 194 mg (1.45 mmol) of 1-hydroxybenzotriazole, 300 mg (1.45 mmol) of 1,3-dicyclohexylcarbodiimide and 63.5 mg (0.87 mmol) of butylamine in 20 ml of THF. After purification on a column of silica (ethyl acetate 20/heptane 80), 60 mg (17%) of a yellow solid are obtained. m.p.=172° C.

reactant | 6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)nicotinic acid | 0.72 mmol, 300 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C#CC1=NC=C(C(=O)O)C=C1 | C23H25NO2Se
reactant | 1-hydroxybenzotriazole | 1.45 mmol, 194 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexylcarbodiimide | 1.45 mmol, 300 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | butylamine | 0.87 mmol, 63.5 mg | C(CCC)N | C4H11N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-Butyl-6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)Nicotinamide | C(CCC)NC(C1=CN=C(C=C1)C#C[Se]C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C27H34N2OSe
